US07514566B2
2-((S)-2-amino-3-(4-chlorophenyl)propylamino)-5-(3,4-difluorophenyl)thiazol-4-ol dihydrochloride
Hydrogen chloride (4.0 M solution in 1,4-dioxane, 5 mL) was added to tert-butyl (S)-3-(4-chlorophenyl)-1-(5-(3,4-difluorophenyl)-4-oxo-4,5-dihydrothiazol-2-ylamino)propan-2-ylcarbamate (0.0940 g, 0.190 mmol). The mixture was stirred at room temperature for 90 minutes in a sealed vessel. The solvent was removed in vacuo to give the product as a white solid, 89.3 mgs, 100%. 1H NMR (300 MHz, CD3OD) δ 2.90-3.12 (m, 2H), 3.64-3.87 (m, 3H), 7.13-7.44 (m, 7H). LCMS (API-ES): 396.0/398.0 (M++H), chloro pattern.

reactant | Hydrogen chloride | 4.0 M, 5 mL | Cl | ClH
reactant | tert-butyl (S)-3-(4-chlorophenyl)-1-(5-(3,4-difluorophenyl)-4-oxo-4,5-dihydrothiazol-2-ylamino)propan-2-ylcarbamate | 0.190 mmol, 0.0940 g | ClC1=CC=C(C=C1)C[C@@H](CNC=1SC(C(N1)=O)C1=CC(=C(C=C1)F)F)NC(OC(C)(C)C)=O | C23H24ClF2N3O3S
product | 2-((S)-2-amino-3-(4-chlorophenyl)propylamino)-5-(3,4-difluorophenyl)thiazol-4-ol dihydrochloride | Cl.Cl.N[C@H](CNC=1SC(=C(N1)O)C1=CC(=C(C=C1)F)F)CC1=CC=C(C=C1)Cl | InChI=1S/C18H16ClF2N3OS.2ClH/c19-12-4-1-10(2-5-12)7-13(22)9-23-18-24-17(25)16(26-18)11-3-6-14(20)15(21)8-11;;/h1-6,8,13,25H,7,9,22H2,(H,23,24);2*1H/t13-;;/m0../s1
